US08049016B2
Synthesis of (R)-2-(3-(4-fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide
Following the procedure as described in Example 1, making variations as required to replace 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methyl-thiazole-5-carboxylic acid with (R)-2-(3-(4-fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid, the title compound was obtained as a colorless solid: mp 185-186° C.; 1H NMR (300 MHz, DMSO-d6) δ 7.40-7.32 (m, 4H), 7.21-7.15 (m, 2H), 4.59 (d, J=15.6 Hz, 1H), 4.30 (d, J=15.6 Hz, 1H), 4.18 (dd, J=10.0, 9.1 Hz 1H), 3.77-3.70 (m, 1H), 3.54 (dd, J=10.1, 6.8 Hz, 1H), 2.45 (s, 3H), 1.22 (d, J=6.2 Hz, 3H); MS (ES+) m/z 348.9 (M+1).

reactant | 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methyl-thiazole-5-carboxylic acid | FC1=CC=C(CN2N=CN(C2=O)C=2SC(=C(N2)C)C(=O)O)C=C1 | C14H11FN4O3S
reactant | (R)-2-(3-(4-fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | FC1=CC=C(CN2C(N(C[C@H]2C)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C16H16FN3O3S
product | (R)-2-(3-(4-fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide | FC1=CC=C(CN2C(N(C[C@H]2C)C=2SC(=C(N2)C)C(=O)N)=O)C=C1 | C16H17FN4O2S
